US04713381
To a solution of 0.5 g of metallic sodium in 60 ml of ethanol is added 6 g of hydroxymethyl-(6-methylimidazo[2,1-b]thiazol-5-yl)ketone-N-methoxycarbonylhydrazone hydrochloride, and stirred at room temperature for 3 hours. Crystals are collected by filtration, washed with water and then recrystallized from 50 ml of a mixed solvent of chloroform and methanol to give 3.5 g of 5-(6-methylimidazo[2,1-b]thiazol-5-yl)-3,6-dihydro-1,3,4-oxadiazin-2-one as white crystals, melting at 294° C. with decomposition.

reactant | sodium | 0.5 g | [Na] | Na
reactant | hydroxymethyl-(6-methylimidazo[2,1-b]thiazol-5-yl)ketone-N-methoxycarbonylhydrazone hydrochloride | 6 g | Cl.COC(=O)NN=C(CO)C1=C(N=C2SC=CN21)C
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 5-(6-methylimidazo[2,1-b]thiazol-5-yl)-3,6-dihydro-1,3,4-oxadiazin-2-one | 3.5 g | CC=1N=C2SC=CN2C1C1=NNC(OC1)=O | C9H8N4O2S
